US08110581B2
Step 1. 1-tert-butyl 3-ethyl 3-{2-[(4-methylpyridin-3-yl)amino]ethyl}piperidine-1,3-dicarboxylate
4-Methylpyridin-3-amine (36.0 mg, 0.000333 mol) was added to a solution of 1-tert-butyl 3-ethyl 3-(2-oxoethyl)piperidine-1,3-dicarboxylate (0.095 g, 0.00032 mol) in 1,2-dichloroethane (1.9 mL, 0.025 mol) and followed by sodium triacetoxyborohydride (0.20 g, 0.00095 mol) and the mixture was stirred for 24 h. The mixture was poured into pre-cooled water, extracted with ethyl acetate. The organic layer was separated, dried and concentrated. The product was purified by CombiFlash using CH2Cl2EtOAc (max EtOAc 50%). LC-MS: 392.3 (M+H)+.

reactant | 4-Methylpyridin-3-amine | 0.000333 mol, 36.0 mg | CC1=C(C=NC=C1)N | C6H8N2
reactant | 1-tert-butyl 3-ethyl 3-(2-oxoethyl)piperidine-1,3-dicarboxylate | 0.00032 mol, 0.095 g | O=CCC1(CN(CCC1)C(=O)OC(C)(C)C)C(=O)OCC | C15H25NO5
reactant | 1,2-dichloroethane | 0.025 mol, 1.9 mL | ClCCCl | C2H4Cl2
reactant | sodium triacetoxyborohydride | 0.00095 mol, 0.20 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | water | O | H2O
product | 1-tert-butyl 3-ethyl 3-{2-[(4-methylpyridin-3-yl)amino]ethyl}piperidine-1,3-dicarboxylate | CC1=C(C=NC=C1)NCCC1(CN(CCC1)C(=O)OC(C)(C)C)C(=O)OCC | C21H33N3O4
